US06262058B1
In a sulfonation flask, 0.84 g (0.021 mol) of a ˜60% sodium hydride dispersion is added to 20 ml of absolute tetrahydrofuran, and then 4.8 g (0.021 mol) of 3-propyl-2-thioxo-2,3-dihydro-1H-thieno-[3.2-d]pyrimidin-4-one, dissolved in 80 ml of tetrahydrofuran, are added dropwise such that the internal temperature remains constant at about 25° C. The mixture is stirred for 1 hour at room temperature and then 4.3 g (0.03 mol) of methyl iodide are added all at once. The mixture is refluxed for 4 hours and then the tetrahydrofuran is removed in a water-jet vacuum. The residue is taken up in ethyl acetate and the organic phase is extracted three times with water. The organic phase is dried over sodium sulfate and the solvent is removed in the water-jet vacuum, giving the crude product which is purified by column chromatography over silica gel (eluant: ethyl acetate/hexane 1:3). 2-Methylsulfanyl-3-propyl-3H-thieno[3.2-d]pyrimidin-4-one is obtained in virtually quantitative yield and having a melting point of 142-144° C.

reactant | sodium hydride | [H-].[Na+]
reactant | 3-propyl-2-thioxo-2,3-dihydro-1H-thieno-[3.2-d]pyrimidin-4-one | 0.021 mol, 4.8 g | C(CC)N1C(NC2=C(C1=O)SC=C2)=S | C9H10N2OS2
reactant | methyl iodide | 0.03 mol, 4.3 g | CI | CH3I
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-Methylsulfanyl-3-propyl-3H-thieno[3.2-d]pyrimidin-4-one | quantitative yield | CSC=1N(C(C2=C(N1)C=CS2)=O)CCC | C10H12N2OS2
